US07531532B2
After adding N,N-dimethylformamide (20 ml) to [1,4]diazepane-1-carboxylic acid benzyl ester (2 ml) under a nitrogen atmosphere, potassium carbonate (6.67 g) and 2-dimethylaminoethyl chloride (1.67 g) were added at room temperature. The reaction mixture was heated to 70° C. and stirred for 2 hours. It was then heated to 80° C. and stirred for 1 hour. Next, 2-dimethylaminoethyl chloride (420 mg) was further added and the reaction mixture was stirred for 2 hours. The reaction mixture was then cooled to room temperature. It was subsequently partitioned between ethyl acetate (100 ml) and saturated aqueous ammonium chloride (50 ml). The separated organic layer was washed with saturated aqueous ammonium chloride (50 ml), water (50 ml) and brine (50 ml) in that order and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then the resultant residue was purified by silica gel column chromatography (FUJI SILYSIA NH, eluent; heptane:ethyl acetate=4:1). Fractions containing the target compound were concentrated under reduced pressure to provide a crude product of 4-(2-dimethylaminoethyl)-[1,4]diazepane-1-carboxylic acid benzyl ester (724 mg, 24.5%) as a pale yellow oil.

reactant | [1,4]diazepane-1-carboxylic acid benzyl ester | 2 ml | C(C1=CC=CC=C1)OC(=O)N1CCNCCC1 | C13H18N2O2
reactant | potassium carbonate | 6.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride | 1.67 g | CN(CCCl)C | C4H10ClN
reactant | 2-dimethylaminoethyl chloride | 420 mg | CN(CCCl)C | C4H10ClN
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(2-dimethylaminoethyl)-[1,4]diazepane-1-carboxylic acid benzyl ester | 724 mg, 24.5% | C(C1=CC=CC=C1)OC(=O)N1CCN(CCC1)CCN(C)C | C17H27N3O2
